US04657898
4,4-Diphenylbutylamine
To a suspension of lithium aluminum hydride (23 g) in ether (1 L) is added a solution of 4,4-diphenylbutyronitrile in dioxane (6.25 L), dropwise, at a rate causing gentle reflux. The reaction is maintained at reflux for one hour, and then a solution of potassium carbonate (200 g) in water (300 mL) is added dropwise with stirring. The mixture is filtered with a 1/1 dioxane/ether wash, and evaporation in vacuo of the filtrate followed by distillation affords the title compound (76 g), bp 145°-150° C. at 0.6 mm. The free amine is generally converted to the hydrobromide salt prior to use.

reactant | lithium aluminum hydride | 23 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4,4-diphenylbutyronitrile | C1(=CC=CC=C1)C(CCC#N)C1=CC=CC=C1 | C16H15N
reactant | potassium carbonate | 200 g | C([O-])([O-])=O.[K+].[K+]
solvent | ether | 1 L | CCOCC | C4H10O
solvent | dioxane | 6.25 L | O1CCOCC1 | C4H8O2
solvent | water | 300 mL | O | H2O
product | 4,4-Diphenylbutylamine | 76 g | C1(=CC=CC=C1)C(CCCN)C1=CC=CC=C1 | C16H19N
